US04374138
C. 8-Amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A solution of 15.0 g (64 mmol) of 1,4-dihydro-8-nitro-4-oxo-3-quinolinecarboxylic acid [J. Amer. Chem. Soc., 68, 1264 (1946)] in 300 ml of dimethylformamide is hydrogenated using 1 g of Raney nickel catalyst at 51 psi and 23° until the required amount of hydrogen uptake is obtained. The catalyst is filtered off and the filtrate is concentrated to 50 ml and ethanol is added. The solid is collected by filtration and washed with ethanol and ether to give 9.7 g of the title compound.

reactant | 1,4-dihydro-8-nitro-4-oxo-3-quinolinecarboxylic acid | 64 mmol, 15.0 g | [N+](=O)([O-])C=1C=CC=C2C(C(=CNC12)C(=O)O)=O | C10H6N2O5
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 8-Amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 9.7 g | NC=1C=CC=C2C(C(=CNC12)C(=O)O)=O | C10H8N2O3
